US07560569B2
4-Fluoropiperidine hydrochloride (18.2 mg) was suspended in tetrahydrofuran (0.87 mL). While this suspension was chilled in an ice bath, triethylamine (18.2 μL) was added and the mixture was stirred at the same temperature for 35 minutes. Subsequently, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) was added and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane and washed sequentially with 0.1 N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated brine. The organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure. The resulting residue was purified by column chromatography (eluant:ethyl acetate:methanol=20:1) to give (2S,4S)-1-[[N-benzyloxycarbonyl-[4-(4-fluoropiperidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (37.0 mg).

reactant | 4-Fluoropiperidine hydrochloride | 18.2 mg | Cl.FC1CCNCC1
reactant | triethylamine | 18.2 μL | C(C)N(CC)CC | C6H15N
reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
solvent | tetrahydrofuran | 0.87 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (2S,4S)-1-[[N-benzyloxycarbonyl-[4-(4-fluoropiperidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 37.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N2CCC(CC2)F)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C29H36F2N4O4
